US05308853
Methyl Z-4-[[2-butyl-5-[[1-(methoxymethyl)-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride
To a solution of methyl Z-4-[[2-butyl-5-[[1-(methoxymethyl)-2,5-dioxo-4-imidazolidinylidene) methyl]-1H-imidazol-1-yl]methyl]benzoate (0.307 g, 0.721 mmol) in DMF (4 mL) is added K2CO3 (0.500 g, 3.62 mmol). After stirring for 5 minutes 4-chloromethyl-2-methylthiazole hydrochloride (0.265 g, 1.44 mmol) is added. The mixture is stirred for 48 hours. A pale brown slurry results which was diluted with ethyl acetate and washed with water and brine and then dried over MgSO4. Chromatography eluting with 1-% methanol in chloroform and evaporation in vacuo affords a viscous oil. This oil is dissolved in ether and treated with ethereal HCl to afford a foamy solid upon evaporation in vacuo. This solid is crystallized from 2-propanol/ether.

reactant | methyl Z-4-[[2-butyl-5-[[1-(methoxymethyl)-2,5-dioxo-4-imidazolidinylidene) methyl]-1H-imidazol-1-yl]methyl]benzoate | 0.721 mmol, 0.307 g | C(CCC)C=1N(C(=CN1)\C=C\1/NC(N(C1=O)COC)=O)CC1=CC=C(C(=O)OC)C=C1 | C22H26N4O5
reactant | K2CO3 | 3.62 mmol, 0.500 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 1.44 mmol, 0.265 g | Cl.ClCC=1N=C(SC1)C
reactant | HCl | Cl | ClH
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | Methyl Z-4-[[2-butyl-5-[[1-(methoxymethyl)-3-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride | Cl.Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)COC)=O)CC=1N=C(SC1)C)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C27H31N5O5S.2ClH/c1-5-6-7-24-28-13-22(30(24)14-19-8-10-20(11-9-19)26(34)37-4)12-23-25(33)32(17-36-3)27(35)31(23)15-21-16-38-18(2)29-21;;/h8-13,16H,5-7,14-15,17H2,1-4H3;2*1H/b23-12-;;
